US08803420B2
A flask was charged with 230 g of 1,4-dibromonaphthalene, 121 g of 2-formylphenylboronic acid, and 18.5 g of tetrakis(triphenylphosphine)palladium(0) in an argon atmosphere. After the addition of 2.4 L of dimethoxyethane (DME) and 1.2 L of a 2 M sodium carbonate aqueous solution, the mixture was heat refluxed with stirring for 8 hours. The mixture was then cooled to room temperature. After removing the aqueous phase, the organic phase was washed with water and a saturated sodium chloride solution, and dried over magnesium sulfate. After removing magnesium sulfate by filtration, the organic phase was concentrated. The residue was purified by silica gel column chromatography to obtain 170 g of the target 1-bromo-4-(2-formylphenyl)naphthalene (yield: 67%).

reactant | 1,4-dibromonaphthalene | 230 g | BrC1=CC=C(C2=CC=CC=C12)Br | C10H6Br2
reactant | 2-formylphenylboronic acid | 121 g | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 18.5 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dimethoxyethane | 2.4 L | C(OC)COC | C4H10O2
product | 1-bromo-4-(2-formylphenyl)naphthalene | yield: 67% | BrC1=CC=C(C2=CC=CC=C12)C1=C(C=CC=C1)C=O | C17H11BrO
